US07247625B2
To a stirred solution of 4,4-diethyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one (5.00 g, 19.98 mmol) in DMF (30 mL) at 0° C. was added sodium hydride (1.20 g-60%, 29.97 mmol). After 20 minutes, methyl iodide (3.8 mL, 61.00 mmol) was added and the reaction was warmed to room temperature. After stirring for one hour, the reaction was quenched with ammonium chloride (sat.) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine repeatedly and dried over magnesium sulfate. Solvent was removed and the residue was triturated with ether to give 4,4-diethyl-1-methyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one a yellowish-white solid (3.74 g, 71%). 1H NMR (DMSO-d6): δ 8.27 (dd, J=9.0, 2.6 Hz, 1H), 8.05 (d, J=2.6 Hz, 1H), 7.34 (d, J=9.0 Hz, 1H), 3.37 (s, 3H), 2.15 (m, 4H), 0.80 (t, J=7.3 Hz, 6H); MS (ESI) m/z 265 ([M+H]+); Anal. calcd for C13H16N2O4: C, 59.08; H, 6.10; N 10.60. Found: C, 59.62; H, 6.20; N, 10.48.

reactant | 4,4-diethyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one | 19.98 mmol, 5.00 g | C(C)C1(OC(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)CC | C12H14N2O4
reactant | sodium hydride | 29.97 mmol | [H-].[Na+]
reactant | methyl iodide | 61.00 mmol, 3.8 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4,4-diethyl-1-methyl-6-nitro-1,4-dihydro-2H-3,1-benzoxazin-2-one | C(C)C1(OC(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)CC | C13H16N2O4
